Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamides)
 
Attending: ___
 
Chief Complaint:
Fevers and abdominal pain  
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yoF w/ a h/o diverticulosis presents with fever and abdominal 
pain. Her pain has been intermittent x 36 hours prior to 
admission and fever to 103 today, her pain is stabbing in 
nature, as severe as ___ and lasts only seconds. She has had 
two episodes in the ER and multiple episodes over past 36 hours 
but they seemed to have resolved. In addition she has been 
nauseas and had a poor appetite x 36 hours without any vomiting. 
Diarrhea x 1 two days prior to admission, watery and brown 
without blood, no black stool. No BM today, + flatus, no 
subjective abd distention. Given that the patient has had these 
symptoms in the past without diagnosis the patients PCP ___. 
___ that she be admitted for further observation. 
The patient states that she has had an episode of diverticulitis 
in the past (but this has not been documented by a CT scan taken 
days after she was asymptomatic) and that these symptoms are the 
same.  

She has been eating out lately very frequently. No sick 
contacts, and no one she has dined with has had similar 
symptoms. 

She spends quite a bit of time in ___, last year she had 
tick bits but she has not noticed any tick bites.  she does take 
care of a friend's dog on occasions. 

ROS: negative for dysuria, vaginal pain, bleeding or discharge. 
+ Dull frontal HA, resolved currently. No flank pain or 
tenderness.  

Rare ETOH use and rare nsaid use.  

In the ED the patient's vitals were T 103 BP 103/55 HR 88 RR O2 
95% RA.  
She rec'd zofran, ketorolac and tylenol as well as 2 liters of 
fluid.  

 
Past Medical History:
Diverticulosis 
L kidney complex cyst 
Gallstones  
Asthma  

 
Social History:
___
Family History:
Mother with renal cell carcinoma. Father with a history of 
colonic polyps. Paternal grandparent with colon cancer. No 
family history of IBD.
 
Physical Exam:
VITAL: 99.5 HR 92 BP 133/60 RR 18 O2 94% RA  
GEN: A+Ox3, NAD  
HEENT: PERRL, EOMI, OP clear, MMM, JVP 10cm  
CV: RRR, ___ systolic murmur, mid peaking cresc-decresc @ R USB 
without radiation to carotids, no thrill  
PULM: CTAB, no W/R/R  
ABD: Soft, NT, ND, +BS, no rebound, no palpable masses or 
organomegaly  
EXT: No peripheral edema, no stigmata of endocarditis  
 
Pertinent Results:
___ 04:30PM BLOOD WBC-5.7 RBC-4.70 Hgb-14.3 Hct-39.9 MCV-85 
MCH-30.5 MCHC-36.0* RDW-13.9 Plt ___
___ 06:55AM BLOOD WBC-6.1 RBC-4.05* Hgb-11.9* Hct-35.1* 
MCV-87 MCH-29.2 MCHC-33.8 RDW-13.5 Plt ___
___ 04:30PM BLOOD Neuts-76.9* Lymphs-12.5* Monos-10.2 
Eos-0.2 Baso-0.3
___ 04:30PM BLOOD Glucose-135* UreaN-10 Creat-1.0 Na-137 
K-3.8 Cl-102 HCO3-25 AnGap-14
___ 04:30PM BLOOD ALT-24 AST-32 LD(LDH)-230 AlkPhos-66 
TotBili-0.5
___ 04:36PM BLOOD Lactate-1.2

CT abdomen:
1. Mild sigmoid diverticulosis without evidence of 
diverticulitis.
2. No evidence of appendicitis.
3. Stable size of large fibroid uterus, with associated mass 
effect on the
rectum by large posterior fibroid.
4. Hypodense lesions in the liver and right kidney, previously 
characterized
on MRI as cysts.
5. Hypervascular lesion in segment VI of the liver, stable since 
___, likely
representing FNH.
6. Stable focal gallbladder wall thickening consistent with 
adenomyomatosis.

CXR:Lungs are clear bilaterally demonstrating no evidence of 
pneumonia or CHF. No pleural effusion or pneumothorax is seen. 
Cardiomediastinal silhouette is normal.

 
Brief Hospital Course:
___ yoF w/ a h/o diverticulosis and asthma presents with 
diarrhea, nausea, fevers, and LLQ abdominal pain.  

# Abdominal pain: Pt's pain was worked up with CT scan, 
urinalysis (negative), LFTs, amylase/lipase (normal). Pt was NPO 
on admission with quick progression to full diet. Stool studies 
were not sent as diarrhea and pain had resolved. Pt had a 
history of diverticulosis and previous similar episode with 
lower abdominal pain and fever with a CT performed after 
symptomatic resolution, negative for diverticulitis.  Given 
nausea and diarrhea as well as negative CT scan on this 
admission, symptoms were attributed to gastroenteritis. 

# Fever:There is no obvious source but because she spend time in 
the ___, lyme disease or ehrlichial infection is a possibility. 
Lyme and ehrlichial titers w drawn before discharge.
  
# Asthma: Pt denied shortness of breath on admission and  was 
continued on her home regimen and additional prn nebulizer 
treatments
  
# Heart murmur: Per patient systolic murmur was longstanding. 
Blood cultures were negative and pt had no stigmata of 
endocarditis. 
  
# Fibroid uterus: Per CT fibroid with "larger mass effect on the 
rectum" than previous in ___ however no evidence of obstruction 
given soft abdomen and having bowel movements. Pt  

 
Medications on Admission:
Fluticasone 3 puffs qam  
Albuterol 2 puffs qam  

 
Discharge Medications:
1. Fluticasone 110 mcg/Actuation Aerosol Sig: Three (3) Puff 
Inhalation QAM (once a day (in the morning)).  
2. Albuterol 90 mcg/Actuation Aerosol Sig: Two (2) Puff 
Inhalation QAM (once a day (in the morning)).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Fever, abdominal pain

 
Discharge Condition:
Stable

 
Discharge Instructions:
You were admitted with abdominal pain and fever. There was no 
evidence of diverticulitis or appendicitis on your CAT scan. We 
sent blood tests, but the results have not returned. We will 
call you if any of these return positive, and you should follow 
up with your primary are doctor regarding these results.

We made no changes to your medications.

Please call your doctor or return to the hospital if you 
experience worsening fevers, continued or worsening abdominal 
pain, or blood in your stools.
 
Followup Instructions:
___